US09062028B2
Step B. 4-(2,3-Dimethylphenoxy)-1-(5-(1-(3-hydroxybenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one
The title compound was prepared using a procedure analogous to 3-((4-bromo-1H-pyrazol-1-yl)methyl)phenol except that 4-bromo-1-(3-methoxybenzyl)-1H-pyrazole was replaced with 4-(2,3-dimethylphenoxy)-1-(5-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one. LCMS, [M+H]+=496.4.

reactant | 3-((4-bromo-1H-pyrazol-1-yl)methyl)phenol | BrC=1C=NN(C1)CC=1C=C(C=CC1)O | C10H9BrN2O
reactant | 4-bromo-1-(3-methoxybenzyl)-1H-pyrazole | BrC=1C=NN(C1)CC1=CC(=CC=C1)OC | C11H11BrN2O
reactant | 4-(2,3-dimethylphenoxy)-1-(5-(1-(3-methoxybenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=CC(=CC=C2)OC)C=CC=C1C | C32H35N3O3
product | 4-(2,3-Dimethylphenoxy)-1-(5-(1-(3-hydroxybenzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=CC(=CC=C2)O)C=CC=C1C | C31H33N3O3
